US04130712
1,3-Diacetyl-hexahydro-2-oxo-1H-thieno[3,4-d]imidazole-4-pentanoic acid methyl ester[N,N'-diacetylbiotin methyl ester]
In a 50 ml glass liner charged 12.8 mg of platinum oxide dampened with acetic anhydride. 417.7 mgs of N,N'-diacetyldehydrobiotin methyl ester high in the 1-isomer were added. The mixture was diluted to 50 ml with acetic anhydride. Hydrogenation was carried out at 550 psi of H2, 85° C., for 6 hours. After cooling the mixture was filtered through Celite removing the Pt metal. Stripping of solvent yielded a colorless oil. Analysis showed ~20% of starting material and 80% of reduction product high in the 1-isomer proportional to that in the starting material.

reactant | 1,3-Diacetyl-2,3,4,6-tetrahydro-2-oxo-1H-thieno[3,4-d]imidazole-4-pentanoic acid methyl ester | 417.7 mgs | COC(CCCCC1SCC=2N(C(N(C21)C(C)=O)=O)C(C)=O)=O | C15H20N2O5S
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
catalyst | platinum oxide | 12.8 mg | [Pt]=O
product | 1,3-Diacetyl-hexahydro-2-oxo-1H-thieno[3,4-d]imidazole-4-pentanoic acid methyl ester | COC(CCCCC1SCC2N(C(N(C21)C(C)=O)=O)C(C)=O)=O | C15H22N2O5S
